US09062032B2
A mixture of 140 mg of methyl 4-{2-[4-({[2-({3-[(cyclopropyl {2-[(2-ethoxy-2-oxoethyl)amino]ethyl}amino)methyl]benzoyl}amino)-4,5,6,7-tetrahydro-1-benzothiophen-3-yl]carbonyl}amino)phenyl]ethyl}benzoate, 1.0 mL of a 1.0M aqueous sodium hydroxide solution, 1.0 mL of methanol, and 2.0 mL of THF was stirred overnight at room temperature. To the reaction mixture was added 1.0 mL of 1.0 M hydrochloric acid. The precipitated solid was collected by filtration, thereby obtaining 113 mg of 4-(2-{4-[({2-[(3-{[{2-[(carboxymethyl)amino]ethyl}(cyclopropyl)amino]methyl}benzoyl)amino]-4,5,6,7-tetrahydro-1-benzothiophen-3-yl}carbonyl)amino]phenyl)}ethyl)benzoic acid.

reactant | methyl 4-{2-[4-({[2-({3-[(cyclopropyl {2-[(2-ethoxy-2-oxoethyl)amino]ethyl}amino)methyl]benzoyl}amino)-4,5,6,7-tetrahydro-1-benzothiophen-3-yl]carbonyl}amino)phenyl]ethyl}benzoate | 140 mg | C1(CC1)N(CCNCC(=O)OCC)CC=1C=C(C(=O)NC=2SC3=C(C2C(=O)NC2=CC=C(C=C2)CCC2=CC=C(C(=O)OC)C=C2)CCCC3)C=CC1 | C42H48N4O6S
reactant | sodium hydroxide | 1.0M | [OH-].[Na+]
reactant | methanol | 1.0 mL | CO | CH4O
reactant | hydrochloric acid | 1.0 M, 1.0 mL | Cl | ClH
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
product | benzoic acid | C(C1=CC=CC=C1)(=O)O | C7H6O2
